US05093328
To a solution of (2S,4R)-2-aminocarbonyl4-hydroxypyrrolidine (1.40 g) in acetic acid (12.4 ml) and water (6.8 ml), 37% aqueous formaldehyde solution (1.09 g) and platinum oxide (33 mg) were added, and the mixture was vigorously stirred at room temperature for 16 hours under an atmospheric pressure of hydrogen. The reaction mixture was filtered, followed by removal of the solvent. The residue was dissolved in isopropanol, and magnesium sulfate and potassium carbonate were added thereto. The resultant mixture was stirred at room temperature for 1 hour and filtered. After removal of the solvent, the residue was purified by silica gel column chromatography to give (2S,4R)-1-methyl-2-aminocarbonyl-4-hydroxypyrrolidine.

reactant | (2S,4R)-2-aminocarbonyl4-hydroxypyrrolidine | 1.40 g | NC(=O)[C@H]1NC[C@@H](C1)O | C5H10N2O2
reactant | formaldehyde | 1.09 g | C=O | CH2O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 12.4 ml | C(C)(=O)O | C2H4O2
solvent | water | 6.8 ml | O | H2O
catalyst | platinum oxide | 33 mg | [Pt]=O
product | (2S,4R)-1-methyl-2-aminocarbonyl-4-hydroxypyrrolidine | CN1[C@@H](C[C@H](C1)O)C(=O)N | C6H12N2O2
